US07906517B2
2-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-ol (250 mg) and 3-bromo-1-propanol (43 μl) are dissolved in N,N-dimethylformamide (1 ml) and thereto is added potassium carbonate (65 mg) and the mixture is stirred at room temperature overnight. Thereto are added ethyl acetate and a saturated brine, and the mixture is separated and the organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→3:1) to give 3-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propan-1-ol (150 g). MS (m/z): 693 [M+H]+

reactant | 2-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-ol | 250 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CC2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C30H31F9N4O
reactant | 3-bromo-1-propanol | 43 μl | BrCCCO | C3H7BrO
reactant | potassium carbonate | 65 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propan-1-ol | 150 g | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCO)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CC2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C33H37F9N4O2
